US08835426B2
To a solution of (S)-2-amino-3-((1-adamantylmethyl)amino)propan-1-ol HCl salt (1.2 g, 3.8 mmol) in anhydrous CH2Cl2 (20 mL) were added DIEA (1.9 g, 15.2 mmol), DMAP (2.3 mg, 0.02 mmol) and TBDPSCl (1.2 g, 4.2 mmol) at 0° C. The mixture was stirred at rt for 2 h. The reaction solution was extracted with CH2Cl2 (100 mL) and water (20 mL). The organic layer was washed with brine (20 mL), dried over MgSO4, and concentrated to give the crude product, which was purified by preparative TLC (PE:EtOAc 10/1) to afford (S)-3-(tert-butyldiphenylsilyloxy)-N1-(1-adamantylmethyl)propane-1,2-diamine (620 mg, 29%) 1H NMR: (CDCl3, 400 MHz): δ=1.05 (s, 9H), 1.54 (s, 6H), 1.62-1.73 (m, 6H), 1.98 (s, 3H), 2.32 (d, 1H), 2.45 (d, 1H), 2.56 (d, 1H), 2.85 (d, 1H), 3.15 (m, 4H), 3.65 (m, 2H), 7.4 (m, 6H), 7.62 (m, 4H).

reactant | (S)-2-amino-3-((1-adamantylmethyl)amino)propan-1-ol HCl salt | 3.8 mmol, 1.2 g | Cl.N[C@H](CO)CNCC12CC3CC(CC(C1)C3)C2
reactant | DIEA | 15.2 mmol, 1.9 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBDPSCl | 4.2 mmol, 1.2 g | CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)Cl | C16H19ClSi
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.02 mmol, 2.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-3-(tert-butyldiphenylsilyloxy)-N1-(1-adamantylmethyl)propane-1,2-diamine | 620 mg, 29% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CNCC12CC3CC(CC(C1)C3)C2)N | C30H44N2OSi
